### ISSUE TITLE
cannot use ax_aux_lemma or native_decide in simp discharger

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#7318]
It seems that simp doesn’t like dischargers that add auxillary lemmas to the environment:
```
inductive P : Prop where
  | mk : P

def Q : Prop := P

theorem Q_of_P : P → Q := fun x => x

-- works
theorem foo : Q := by
  simp (discharger := exact P.mk) [Q_of_P]


/-- error: unknown constant 'Lean.Elab.Tactic.AsAuxLemma.auxLemma✝' -/
#guard_msgs in
theorem bar : Q := by
  simp (discharger := as_aux_lemma => exact P.mk) [Q_of_P]

theorem Q_of_decide : (1 + 1 = 2) → Q := fun _ => P.mk

/-- error: unknown constant 'lean.run.issue7318._auxLemma.3' -/
#guard_msgs in
theorem bar_decide : Q := by
  simp (discharger := native_decide) [Q_of_decide]
```

No immediate super blocking use-case, but fixing this would help with experiments like
https://github.com/leanprover/lean4/pull/5998/files

**Comment by nomeata** [comment]
The issue is due to the use of `withoutModifyingStateWithInfoAndMessages` in `tacticToDischarge`. Maybe reverting all of `Core.state` is too much? But there must be a reason not to use just `withoutModifyingElabMetaStateWithInfo`?
